US04474754
0.50 Gram of Z-Leu-Ile-Leu-Leu-Ala-Gln-OH was dissolved in 50 ml of methanol and 10 ml of 10%-acetic acid, and the mixture was catalytically reduced by using palladium as a catalyst to obtain H-Leu-Ile-Leu-Leu-Ala-Gln-OH. Hereinafter, this product is referred to as [Peptide A].

reactant | Z-Leu-Ile-Leu-Leu-Ala-Gln-OH | N([C@@H](CC(C)C)C(=O)N[C@@H]([C@@H](C)CC)C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](C)C(=O)N[C@@H](CCC(N)=O)C(=O)O)C(=O)OCC1=CC=CC=C1 | C40H65N7O10
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | methanol | 50 ml | CO | CH4O
catalyst | palladium | [Pd] | Pd
product | H-Leu-Ile-Leu-Leu-Ala-Gln-OH | N[C@@H](CC(C)C)C(=O)N[C@@H]([C@@H](C)CC)C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](C)C(=O)N[C@@H](CCC(N)=O)C(=O)O | C32H59N7O8
